US07030139B2
40C: N-[5-[(Diethylamino)carbonyl]-2-nitrophenyl]4-ethoxy-benzeneacetamide
To a stirring toluene solution (100 mL) of 3-amino-N,N-diethyl-4-nitro-benzamide (1.00 g, 4.21 mmol) were added 4-ethoxyphenylacetyl chloride (1.25 g, 1.5 eq) and zinc dust (415 mg, 1.5 eq). The solution was stirred at rt overnight. Another 0.5 eq of acid chloride and zinc dust were then added and the solution stirred at rt for another 24 h. The solution was then filtered through celite and rinsed with EtOAc. The organic phase was washed with saturated NaHCO3 solution, brine and dried over anhydrous MgSO4. The crude product was purified by flash chromatography using 1:1/hex:EtOAc on silica gel to furnish the desired product (1.52 g, 90% yield). 1H NMR (400 MHz, CDCl3) d 8.81 (s, 1H), 8.20 (d, J=8.8 Hz, 1H), 7.26 (m, 3H), 7.15 (d, J=8.8 Hz, 1H), 6.94 (d, J=8.4 Hz, 2H), 4.06 (q, J=7.2 Hz, 2H), 3.75 (s, 2H), 3.54 (q, J=6.8 Hz, 2H), 3.24 (q, J=6.8 Hz, 2H), 1.59 (br s, 1H), 1.42 (t, J=6.8 Hz, 3H), 1.25 (t, J=6.8 Hz, 3H), 1.16 (t, J=6.8 Hz, 3H).

reactant | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
reactant | 3-amino-N,N-diethyl-4-nitro-benzamide | 4.21 mmol, 1.00 g | NC=1C=C(C(=O)N(CC)CC)C=CC1[N+](=O)[O-] | C11H15N3O3
reactant | 4-ethoxyphenylacetyl chloride | 1.25 g, 1.5 eq | C(C)OC1=CC=C(C=C1)CC(=O)Cl | C10H11ClO2
catalyst | zinc | 415 mg, 1.5 eq | [Zn] | Zn
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-[5-[(Diethylamino)carbonyl]-2-nitrophenyl]4-ethoxy-benzeneacetamide | 1.52 g, 90% yield | C(C)N(C(=O)C=1C=CC(=C(C1)NC(CC1=CC=C(C=C1)OCC)=O)[N+](=O)[O-])CC | C21H25N3O5
